Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
Paracentesis ___

 
History of Present Illness:
Ms. ___ is a ___ year old woman with alcohol use disorder,
Child's B alcohol cirrhosis complicated by ascites, and recent C
diff infection who presents with abdominal pain and diarrhea. 

The patient was recently diagnosed with cirrhosis in ___. She was hospitalized at ___. Her course was
complicated by ascites, for which she underwent a 2L 
paracentesis
that was negative for infection. After discharge, C diff was
checked in the setting of persistent leukocytosis to mid ___,
despite no diarrhea or abdominal symptoms. C diff was positive
and she was treated with oral vancomycin ___. Her
hepatologist, Dr. ___ increased her Lasix and
Spironolactone dosing on ___ from total daily dosing Lasix 40 
mg
-> 60 mg and Spironolactone 100 mg -> 150 mg. Her creatinine at
that time was 0.5. Repeat labs on ___ showed Cr 1.1.

She is now presenting with five days of non-bloody diarrhea and
worsening abdominal pain. She describes her pain as cramping and
diffuse. The pain has been stable over the past five days, and
she has had about ___ episodes of diarrhea per day. She shares
she has never had symptoms like this before. She emphasizes that
the pain is different from the abdominal discomfort she had when
she had a lot of ascites, and that she actually feels her 
abdomen
is softer and less distended than it was then. She has not had
any fevers or chills. She called her hepatologist to discuss her
symptoms, who directed her to go to the ED.

In the ED, initial VS were: 97.4 96 105/64 16 100% RA. Labs were
notable for WBC 22 (up from 17 on ___, Hb 11.1, Platelet 477,
ALT 19, AST 56, lipase 86, AP 230, T bili 1.4, Cr 1.8 (baseline
0.6, Cr ___, lactate 2.8. UA unrevealing; urine Na 43.
Imaging notable for KUB with nonspecific gas pattern. Bedside
ultrasound with ascites, but unable to find a pocket to tap.
Hepatology was consulted and recommended obtaining further lab
workup, loading with albumin, treating with oral vancomycin for 
C
diff and empirically covering for SBP with ceftriaxone. She was
given albumin 25% 50 g, vancomycin 125 mg and acetaminophen 500
mg. 
 
Past Medical History:
EtOH cirrhosis c/b ascites 
EtOH use disorder
C diff infection 
?Vitamin B12 deficiency listed in ___ records 
 
Social History:
___
Family History:
Father: CLL
Mother: HTN

 
Physical Exam:
ADMISSION EXAM
VS: 98.1 92/61 88 18 97 RA 
GENERAL: thin woman lying flat in bed, appears relatively well
and comfortable 
HEENT: mildly dry mucosa, anicteric sclera
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: mildly distended but soft, diffusely mildly tender to
palpation with no rebound or guarding 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, no
asterixis, can do DOWB  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE EXAM
___ 0750 Temp: 98.2 PO BP: 91/63 HR: 105 RR: 16 O2 sat:
99% O2 delivery: RA 
GENERAL: thin woman lying bed, NAD
HEENT: MMM, anicteric sclera
NECK: supple, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: mildly distended but soft, non-tender to
palpation with no rebound or guarding 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, no
asterixis
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
___ 07:55PM BLOOD WBC-22.0* RBC-3.29* Hgb-11.1* Hct-33.2* 
MCV-101* MCH-33.7* MCHC-33.4 RDW-13.2 RDWSD-49.2* Plt ___
___ 07:55PM BLOOD Neuts-81.1* Lymphs-10.4* Monos-6.9 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-17.86* AbsLymp-2.30 
AbsMono-1.52* AbsEos-0.12 AbsBaso-0.09*
___ 10:48PM BLOOD ___ PTT-33.4 ___
___ 07:55PM BLOOD Glucose-115* UreaN-22* Creat-1.8* Na-136 
K-4.5 Cl-94* HCO3-23 AnGap-19*
___ 07:55PM BLOOD ALT-19 AST-56* AlkPhos-230* TotBili-1.4
___ 05:00AM BLOOD Calcium-10.1 Phos-4.9* Mg-2.1
___ 09:26PM BLOOD Lactate-2.8*

INTERVAL LABS OF IMPORTANCE
___ 07:55PM BLOOD Lipase-96*
___ 07:55PM BLOOD calTIBC-203* VitB12-810 Ferritn-231* 
TRF-156*
___ 05:00AM BLOOD AMA-NEGATIVE
___ 05:00AM BLOOD ___ Titer-1:40*
___ 05:00AM BLOOD IgG-987 IgA-466* IgM-194
___ 05:32AM BLOOD Lactate-1.9

DISCHARGE LABS
___ 07:21AM BLOOD WBC-8.8 RBC-2.71* Hgb-9.3* Hct-27.8* 
MCV-103* MCH-34.3* MCHC-33.5 RDW-13.2 RDWSD-49.1* Plt ___
___ 04:50AM BLOOD ___ PTT-43.6* ___
___ 07:21AM BLOOD Glucose-89 UreaN-7 Creat-0.5 Na-138 K-4.6 
Cl-105 HCO3-20* AnGap-13
___ 04:50AM BLOOD ALT-11 AST-41* LD(LDH)-137 AlkPhos-141* 
TotBili-1.1
___ 07:21AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.9

IMAGING/REPORTS:
___ ABD XRAY
There are no abnormally dilated loops of large or small bowel.
There is no free intraperitoneal air.
Osseous structures are unremarkable.
There are no unexplained soft tissue calcifications or 
radiopaque foreign
bodies.
IMPRESSION: 
Nonspecific, nonobstructive bowel gas pattern.

___ ABD US
1. Patent portal vein with appropriate direction of flow.
2. Mild-to-moderate volume ascites.
3. Echogenic liver with no focal lesions identified.

___ CXR
There are small bilateral pleural effusions with bibasilar 
atelectasis.  Heart
size is normal.  No pneumothorax is seen

MICROBIOLOGY:
BLOOD CULTURE ___ Blood Culture, Routine (Preliminary): 
      VIRIDANS STREPTOCOCCI. 
         Isolated from only one set in the previous five days.

URINE CULTURE

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with alcohol use disorder,
alcohol cirrhosis complicated by ascites, and recent C diff
infection (___) who presents with abdominal pain, diarrhea,
along with leukocytosis and ___ found to have c-diff.

#Cdiff
#Abdominal pain
#Diarrhea
Patient presents with abdominal pain and diarrhea found to be 
positive C diff. SBP originally on differential, but ___ 
paracentesis with fluid studies to evaluate for SBP with only 9 
PMNs. Started PO vancomycin- will treat with ___ (last day of antibiotics)- ___

___ Pre-Renal in etiology
Creatinine baseline 0.6, bumped to 1.8 from ___ to ___ after 
increase in diuretic regimen and with diarrhea from c-diff. Cr 
downtrended with albumin and fluid. Diuretics were held during 
this admission. Restarted at a lower dose prior to discharge. Cr 
on discharge 0.5

#Patient with positive blood cultures in ED which grew out strep 
viridens, a known skin contaminant. She was treated with 2 days 
of IV vancomycin until speciation resulted.

#Urine culture with GRAM POSITIVE BACTERIA. >100,000 CFU/mL. 
Alpha hemolytic colonies consistent with alpha streptococcus or 
Lactobacillus sp also felt to be almost certainly a contaminant. 


#EtOH cirrhosis c/b ascites
#Ascites
Patient with Child's B alcohol cirrhosis c/b ascites. Do not yet 
know presence of varices or not. RUQ with Dopple without 
thrombosis but with moderate ascites. Diagnostic paracentesis 
did not show any signs of SBP. Patient should have EGD within 2 
weeks. Restarted lasix 40 mg daily and spironolactone 100 mg 
daily.

#EtOH use disorder, in remission
Patient stopped drinking on her own, with last drink ___. She
has been to AA before, but is not currently attending. She 
reports no history of withdrawal. SW was consulted for alcohol 
cessation resources and living situation.

#Smoking cessation
nicotine patch

#Nutrition 
Patient is cachectic and says she feels full often, making it
hard to eat. Low sodium diet. Ensure TID.

#Listed history of B12 deficiency
Normal level here of 812

Transitional Issues:
[ ] Patient with anemia, no sign of active bleeding but needs 
further work up. Hgb at discharge 9.3
[ ]Low sodium high calorie diet. Ensure TID. Discharge weight 
39.51kg 87.1 lb
[ ]Diuretics restarted at lower dose on discharge. Please 
monitor and adjust as needed. 
[ ]Please check electrolytes and Cr within ___ days of 
discharge. Discharge Cr 0.5
[ ]PO vancomycin for ___1 ___
[ ]Patient should follow up with Dr. ___ in GI within ___ 
weeks. Needs timely outpatient EGD scheduled to assess variceal 
status. 
#CONTACT: ___, sister, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 75 mg PO BID 
2. Furosemide 40 mg PO QAM 
3. Furosemide 20 mg PO QPM 
4. Nicotine Patch 21 mg TD DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
8. melatonin 15 mg oral QHS PRN 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*52 Capsule Refills:*0 
2.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Spironolactone 100 mg PO DAILY 
RX *spironolactone 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  melatonin 15 mg oral QHS PRN  
6.  Multivitamins 1 TAB PO DAILY  
7.  Nicotine Patch 21 mg TD DAILY  
8.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
C-diff colitis
___
Cirrhosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,
You came to ___ with abdominal pain and diarrhea. We found you 
had an infection called C-diff. We treated you with antibiotics 
and your symptoms improved. You also had an injury to your 
kidney function. This is because you did not have enough fluid 
with the combination of your diarrhea and your diuretic 
medication. We gave you fluid and stopped your diuretics and 
your kidneys got better. Please follow up with your doctors and 
take your medication as recommended. 
It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___